US05089506
2-Benzobicyclo[2.2.1]hepteneone
A solution of mercuric acetate (4 g) in water (10 ml) was treated with a solution of benzobicyclo[2.2.1]heptadiene (2 g) in tetrahydrofuran (25 ml) and the resulting mixture was stirred at room temperature for 24 hours. The solution was treated with a solution of 10% sodium hydroxide in water (5 ml), followed by sodium borohydride (0.5 g). The resulting mixture was stirred for 30 minutes and the resulting layers were separated. The aqueous layer was extracted with ether (2×30 ml) and the combined organic layers were dried over magnesium sulfate and concentrated on a rotary evaporator. The residue was combined with methylene chloride (25 ml) and pyridinium chlorochromate (3 g) and the solution was stirred at room temperature for 12 hours. The solution was washed with water (30 ml) and the organic layer was dried over magnesium sulfate. The solvent was removed on a rotary evaporator and the product was purified by preparative centrifugally accelerated radial thin layer chromatography using 25% ethyl acetate in hexane as the eluant. After removal of the eluant on a rotary evaporator, the product was obtained as a yellow oil.

reactant | benzobicyclo[2.2.1]heptadiene | 2 g | C=12C3=C(C(=CC1)C2)C=CC=C3 | C11H8
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium borohydride | 0.5 g | [BH4-].[Na+]
solvent | water | 10 ml | O | H2O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | water | 5 ml | O | H2O
product | 2-Benzobicyclo[2.2.1]hepteneone | C1=2C3=C(C(=CC1=O)C2)C=CC=C3 | C11H6O
